US08252820B2
B. 5-[1-Fluoro-3-hydroxy-7-(5-hydroxy-4,4-dimethylpentyl)-naphthalen-2-yl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
The title compound is prepared analogously to Example 9, Steps A and B, starting from 5-(3-benzyloxy-7-bromo-1-fluoronaphthalen-2-yl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one and (E)-2,2-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pent-4-en-1-ol, Retention time=1.16 min (Method A); MS (M−H)−=409.

reactant | 5-(3-benzyloxy-7-bromo-1-fluoronaphthalen-2-yl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC=1C(=C(C2=CC(=CC=C2C1)Br)F)N1CC(NS1(=O)=O)=O | C19H14BrFN2O4S
reactant | (E)-2,2-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pent-4-en-1-ol | CC(CO)(C\C=C\B1OC(C(O1)(C)C)(C)C)C | C13H25BO3
product | 5-[1-Fluoro-3-hydroxy-7-(5-hydroxy-4,4-dimethylpentyl)-naphthalen-2-yl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | FC1=C(C(=CC2=CC=C(C=C12)CCCC(CO)(C)C)O)N1CC(NS1(=O)=O)=O | C19H23FN2O5S
